US05114936
To a solution consisting of 6,7-dihydro-5-dimethylaminomethyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one hydrochloride (1.86 g) in distilled water (18.5 ml) was added 4-(4-fluorobenzoyl)piperidine hydrochloride (2.78 g) and potassium carbonate (0.80 g). The reaction mixture was heated at reflux for 3 hours. Upon cooling to room temperature, ethyl acetate was added and the layers were separated. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, 40% ethyl acetate/hexane) PG,54 afforded 1.20 g of 6,7-dihydro-5-(4-(4-fluorobenzoyl)-1-piperidinyl)methyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one. The compound was flushed through alumina with dichloromethane to give an oil which solidified on standing. The product was then recrystallized from ether/hexane, m.p. 99°-102° C.

reactant | 6,7-dihydro-5-dimethylaminomethyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one hydrochloride | 1.86 g | Cl.CN(C)CC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 2.78 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | potassium carbonate | 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 18.5 ml | O | H2O
product | 6,7-dihydro-5-(4-(4-fluorobenzoyl)-1-piperidinyl)methyl-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one | 1.20 g | FC1=CC=C(C(=O)C2CCN(CC2)CC2CCC3=C(C(=NO3)C3=C(C=CC=C3)F)C2=O)C=C1 | C26H24F2N2O3
